US08039490B2
N-(trans-4-{2-[4-(Thiophene-2-carbonyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-acetamide
From piperidin-4-yl-thiophen-2-yl-methanone hydrochloride (74 mg) and N-[trans-4-(2-oxo-ethyl)-cyclohexyl]-acetamide (64 mg, intermediate AG). Yield: 75 mg (65%). Light yellow solid. MS (m/z): 363.4 ([M+H]+).

reactant | piperidin-4-yl-thiophen-2-yl-methanone hydrochloride | 74 mg | Cl.N1CCC(CC1)C(=O)C=1SC=CC1
reactant | N-[trans-4-(2-oxo-ethyl)-cyclohexyl]-acetamide | 64 mg | O=CC[C@@H]1CC[C@H](CC1)NC(C)=O | C10H17NO2
product | N-(trans-4-{2-[4-(Thiophene-2-carbonyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-acetamide | S1C(=CC=C1)C(=O)C1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(C)=O | C20H30N2O2S
